US07754737B2
Step 1. 1-(2,2-diethoxyethoxy)-2-bromobenzene
A solution of KOH pellets (85%, 0.68 g, 10.3 mmol) in water (1.5 mL) was added to 2-bromophenol (1 mL, 8.6 mmol). The mixture was diluted with DMSO (20 mL) and bromoacetaldehyde diethyl acetal (1.43 mL, 9.5 mmol) was added. The mixture was heated at 100° C. for 6 h, cooled to rt, diluted with ether (175 mL), washed with water (3×40 mL) and 5% aq NaOH (40 mL), and dried over MgSO4. Removal of the solvent left 1-(2,2-diethoxyethoxy)-2-bromobenzene (2.62 g, quant) as an oil.

reactant | KOH | [OH-].[K+]
reactant | 2-bromophenol | 8.6 mmol, 1 mL | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | bromoacetaldehyde diethyl acetal | 9.5 mmol, 1.43 mL | C(C)OC(CBr)OCC | C6H13BrO2
solvent | water | 1.5 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ether | 175 mL | CCOCC | C4H10O
product | 1-(2,2-diethoxyethoxy)-2-bromobenzene | C(C)OC(COC1=C(C=CC=C1)Br)OCC | C12H17BrO3
